US08304036B2
0.7 g (1.7 mmol) of 2-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)-5-propenyl-selenophene is hydrogenated in 30 ml of ethyl acetate/toluene (2:1), in the presence of Pd/C (5% of Pd) at atmospheric pressure and RT. The reaction soln. is filtered and concentrated to dryness. Recrystallisation from n-heptane/toluene (4:1) gives 2-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)-5-propylselenophene as a solid having an m.p. of 114° C.

reactant | 2-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)-5-propenyl-selenophene | 1.7 mmol, 0.7 g | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)C=1[Se]C(=CC1)C=CC | C22H20F2OSe
solvent | ethyl acetate toluene | 30 ml | C(C)(=O)OCC.C1(=CC=CC=C1)C
catalyst | Pd/C | [Pd] | Pd
product | 2-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)-5-propylselenophene | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)C=1[Se]C(=CC1)CCC | C22H22F2OSe
